US07713994B2
(4Z)-{[(5-Furan-3-yl-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione
An amount of 64 mg (0.33 mmol) of 2-aminomethyl-5-furan-3-yl-pyridin-4-ol, is slurried in N,N-dimethylformamide (3 mL), followed by the addition of 110 mg (0.33 mmol) of (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione. After the mixture is stirred at room temperature for 6 hours, the solid is filtered and washed several times with N,N-dimethylformamide, then ether and dried to give 109 mg of the title compound as a light beige solid (67% yield); mp 213-228° C. dec,

reactant | 2-aminomethyl-5-furan-3-yl-pyridin-4-ol | 0.33 mmol, 64 mg | NCC1=NC=C(C(=C1)O)C1=COC=C1 | C10H10N2O2
reactant | (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.33 mmol, 110 mg | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (4Z)-{[(5-Furan-3-yl-4-hydroxy-pyridin-2-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | 109 mg, 67% yield | O1C=C(C=C1)C=1C(=CC(=NC1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)O | C20H14IN3O4
